US07223789B2
Step 2: N1-(pyrid-3-yl)-4-methoxy-8-amino-dibenzo[b,d]furan-1-carboxamide
N1-(pyrid-3-yl)-4-methoxy-8-nitro-dibenzo[b,d]furan-1-carboxamide (500 mg) (from step1) was reduced using raney nickel (150 mg) (30% w/w aqueous suspension) in methanol (10 ml) in the presence of hydrazine hydrate (0.32 ml) under gentle reflux for 4 h. The reaction mixture was flitered through celite and the filterate was concentrated in vaccuo. The residue was triturated with water, to obtain a solid which was filtered dried to give the product as white solid (300 mg).

reactant | N1-(pyrid-3-yl)-4-methoxy-8-nitro-dibenzo[b,d]furan-1-carboxamide | 500 mg | N1=CC(=CC=C1)NC(=O)C1=CC=C(C=2OC3=C(C21)C=C(C=C3)[N+](=O)[O-])OC | C19H13N3O5
reactant | hydrazine hydrate | 0.32 ml | O.NN
catalyst | raney nickel | 150 mg | [Ni] | Ni
solvent | methanol | 10 ml | CO | CH4O
product | N1-(pyrid-3-yl)-4-methoxy-8-amino-dibenzo[b,d]furan-1-carboxamide | 300 mg | N1=CC(=CC=C1)NC(=O)C1=CC=C(C=2OC3=C(C21)C=C(C=C3)N)OC | C19H15N3O3
